US05506267
4-(N-vinylsulfonyl-N-t-butyloxycarbonylaminomethyl)benzoylglutamic acid di-t-butyl ester
4-(vinylsulfonylaminomethyl)benzoyl-glutamic acid di-t-butyl ester as obtained in Reference Example 30 (172 mg) and di-t-butyl dicarbonate (118 mg) were dissolved in pyridine (1 ml), followed by stirring at room temperature for 1 hour. The organic layer was concentrated to dryness under reduced pressure; the resulting residue was purified by silica gel column chromatography (chloroform:n-hexane=1:1) to yield the title compound (145 mg, yield 70.3%) as a colorless solid.

reactant | 4-(vinylsulfonylaminomethyl)benzoyl-glutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)CNS(=O)(=O)C=C)=O)CCC(=O)OC(C)(C)C)=O | C23H34N2O7S
reactant | di-t-butyl dicarbonate | 118 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 4-(N-vinylsulfonyl-N-t-butyloxycarbonylaminomethyl)benzoylglutamic acid di-t-butyl ester | 145 mg, yield 70.3% | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)CN(C(=O)OC(C)(C)C)S(=O)(=O)C=C)=O)CCC(=O)OC(C)(C)C)=O | C28H42N2O9S
